US09403818B2
Preparation of methyl 8-(1H-indazol-5-yl)-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(1H-indazol-5-yl)-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate (50 mg, 0.16 mmol), and 1H-Indazole-5-boronic acid pinacol ester (47.6 mg, 0.20 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as an orange foam (32 mg, 46%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate | 0.16 mmol, 50 mg | ClC=1C=CN2C(C(=CC(=C2C1OC)C1CC1)C(=O)OC)=O | C15H14ClNO4
reactant | 1H-Indazole-5-boronic acid pinacol ester | 0.20 mmol, 47.6 mg | N1N=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C13H17BN2O2
product | methyl 8-(1H-indazol-5-yl)-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate | 32 mg, 46% | N1N=CC2=CC(=CC=C12)C=1C=CN2C(C(=CC(=C2C1OC)C1CC1)C(=O)OC)=O | C22H19N3O4
